US07608639B2
3-(4-Fluoro-2-methyl-phenyl)-acrylic acid ethyl ester
A mixture of 1-bromo-4-fluoro-2-methyl-benzene (5.00 g, 26.45 mmol), palladium acetate (0.59 g, 2.64 mmol), tri-o-tolylphosphine (1.61 g, 5.29 mmol), DIPEA (13.8 mL, 79.35 mmol) and ethyl acrylate (3.34 mL, 105.80 mmol) in propionitrile (106 mL) is stirred at 90° C. under nitrogen overnight. The mixture is ed off through Celite and washed with ethyl acetate. The mixture is concentrated under reduced pressure, purified by flash chromatography by eluting with hexane:ethyl acetate 10:1 to afford the title compound (5.50 g, 99%). Rf=0.49 (hexane:ethyl acetate 5:1). 1H NMR (300 MHz, CDCl3): δ1.33 (t, 3H, J=7.3 Hz), 2.41 (s, 3H), 4.26 (q, 2H, J=7.3 Hz), 6.28 (d, 1H, J=16.0 Hz), 6.88-6.91 (m, 2H), 7.48-7.53 (m, 1H), 7.88 (d, 1H, J=15.8 Hz).

reactant | 1-bromo-4-fluoro-2-methyl-benzene | 26.45 mmol, 5.00 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | tri-o-tolylphosphine | 5.29 mmol, 1.61 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | DIPEA | 79.35 mmol, 13.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | ethyl acrylate | 105.80 mmol, 3.34 mL | C(C=C)(=O)OCC | C5H8O2
solvent | propionitrile | 106 mL | C(CC)#N | C3H5N
catalyst | palladium acetate | 2.64 mmol, 0.59 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(4-Fluoro-2-methyl-phenyl)-acrylic acid ethyl ester | 5.50 g, 99% | C(C)OC(C=CC1=C(C=C(C=C1)F)C)=O | C12H13FO2
